2115-07-02 11:50:00 Physician Attending Progress Note
Chief Complaint: RLE gangrene, s/p bka
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55M with morbid obesity, cpap, dm, ?chf, ?pe/dvt, presents with sepsis
   from RLE cellulitis, likely osteo. S/p BKA, now txr to micu team for
   further management:
   24 Hour Events:
   -extubated yesterday
   -cpap overnight, did well
   -somewhat depressed mental status
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Doxycycline
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2115-7-1**] 10:00 PM
   Vancomycin - [**2115-7-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-7-1**] 07:54 PM
   Ranitidine (Prophylaxis) - [**2115-7-1**] 07:55 PM
   Furosemide (Lasix) - [**2115-7-2**] 06:28 AM
   Other medications:
   sqh, ipratr, albuterol neb, asa, methadone, furosemide 20 daily, riss,
   vanco 1500 q12, cefepime 2q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-7-2**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 80 (71 - 98) bpm
   BP: 98/44(61) {88/40(57) - 114/56(76)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 263 kg (admission): 238.6 kg
   Height: 68 Inch
   CVP: 10 (7 - 14)mmHg
   Total In:
                                                                  1,177 mL
                                                                    612 mL
   PO:
   TF:
                                                                     80 mL
   IVF:
                                                                    977 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  4,590 mL
                                                                  1,950 mL
   Urine:
                                                                  4,340 mL
                                                                  1,950 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    150 mL
   Balance:
                                                                 -3,413 mL
                                                                 -1,338 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.38/60/58/32/7
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   157 K/uL
   115 mg/dL
   1.2 mg/dL
   32 mEq/L
   5.3 mEq/L
   29 mg/dL
   106 mEq/L
   141 mEq/L
   26.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2115-6-30**]  11:03 PM
                             [**2115-7-1**]  03:06 AM
                             [**2115-7-1**]  06:06 AM
                             [**2115-7-1**]  07:07 AM
                             [**2115-7-1**]  10:21 AM
                             [**2115-7-1**]  03:04 PM
                             [**2115-7-1**]  03:10 PM
                             [**2115-7-1**]  09:09 PM
                             [**2115-7-1**]  10:11 PM
                             [**2115-7-2**]  02:36 AM
   WBC
   9.7
   9.6
   Hct
   28.5
   26.6
   26.0
   26.0
   Plt
   188
   174
   157
   Cr
   1.2
   1.2
   TCO2
   30
   33
   33
   33
   35
   37
   Glucose
   98
   87
   84
   115
   Other labs: PT / PTT / INR:27.0/38.0/2.6, ALT / AST:12/37, Alk Phos / T
   Bili:106/1.2, Amylase / Lipase:26/24, Differential-Neuts:88.1 %,
   Lymph:9.3 %, Mono:2.0 %, Eos:0.2 %, D-dimer:1236 ng/mL, Fibrinogen:430
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:144 IU/L, Ca++:8.3
   mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIABETES MELLITUS (DM), TYPE II
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
   56M with morbid obesity, CHF, DVT/PE, OSA, ?COPD, now extubated and
   recovering slowly:
   resp failure: doing well after extubation. ?chf.
   -cont gentle diuresis, goal tbb -[**Telephone/Fax (1) 179**], watching lytes
   -cont cpap for OSA
   -supplemental O2 to sat goal >88%
   dvt/pe: still therapeatic a/c
   -holding coumadin
   sedation: improving after recent heavy sedation for surgery, mechanical
   ventilation
   -holding methadone
   wounds: RLE and LLE
   -defer management to vascular
   -need to address LLE ulcers - will discuss with vascular whether other
   consultants
   ICU Care
   Nutrition: awaiting better mental status to advance diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2115-6-29**] 06:00 AM
   Arterial Line - [**2115-6-29**] 06:45 AM
   Multi Lumen - [**2115-6-29**] 12:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments: has a sister, coming this weekend
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility in the next
   several days
   Total time spent: 35 minutes